US06852744B2
To a solution of phenylmethyl 2-(2,5-dioxo-3-benzylimidazolidinyl)acetate (3.42 g, 10.0 mmol) in THF—H2O (3:1, 40 ml) was added lithium hydroxide monohydrate (0.85 g, 20.0 mmol). After stirring the mixture at 50° C. for 6 hours, the reaction mixture was alkalized with saturated aqueous sodium hydrogen carbonate solution and washed with ethyl acetate. The aqueous phase was acidified with diluted hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was recrystallized with ethyl acetate and filtered off to give 2-(2,5-dioxo-3-benzylimidazolidinyl)acetic acid (1.28 g).

reactant | phenylmethyl 2-(2,5-dioxo-3-benzylimidazolidinyl)acetate | 10.0 mmol, 3.42 g | O=C1N(C(CN1CC1=CC=CC=C1)=O)CC(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | lithium hydroxide monohydrate | 20.0 mmol, 0.85 g | O.[OH-].[Li+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF H2O | 40 ml | C1CCOC1.O
product | 2-(2,5-dioxo-3-benzylimidazolidinyl)acetic acid | 1.28 g | O=C1N(C(CN1CC1=CC=CC=C1)=O)CC(=O)O | C12H12N2O4
